US06603008B1
5-{4-Chloro-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide (Step 3)
A mixture of 5-[5-(4-bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide (236 mg, 0.489 mmol), 4-(tributylstannyl)-1,3-thiazole 238 mg, 0.636 mmol), lithium chloride (27 mg, 0.636 mmol) and tetrakis(triphenyphosphine)palladium (57 mg, 0.0489 mmol) in 1,4-dioxane (10 ml) was refluxed for 5 hr under nitrogen atmosphere. After evaporation, the residue obtained was chromatographed on a column of silica gel (50 g) eluting with ethyl acetate/hexane (3:4) to afford 200 mg (84%) of the title compound as a pale brown gum.

reactant | 5-[5-(4-bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | 0.489 mmol, 236 mg | BrC1=CC=C(C=C1)C1=C(C(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)Cl | C15H9BrClF3N4O2S
reactant | 4-(tributylstannyl)-1,3-thiazole | 0.636 mmol, 238 mg | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
reactant | lithium chloride | 0.636 mmol, 27 mg | [Cl-].[Li+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-{4-Chloro-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide | 200 mg, 84% | ClC=1C(=NN(C1C1=CC=C(C=C1)C=1N=CSC1)C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H11ClF3N5O2S2
